US04933333
40 mg of (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-dimethylcarbamoyl-4-acetylthiopyrrolidine was dissolved in 4 ml of methanol, and 0.1 ml of a 1N sodium hydroxide aqueous solution was added thereto, followed by stirring at room temperature for 15 minutes. 0.11 ml of a 1N hydrochloric acid aqueous solution was then added thereto, followed by concentration under reduced pressure. The concentrate was diluted with ethyl acetate, washed with water, dried over sodium sulfate and distilled off to remove the solvent to obtain (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-dimethylcarbamoyl-4-mercaptopyrrolidine.

reactant | (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-dimethylcarbamoyl-4-acetylthiopyrrolidine | 40 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)C(N(C)C)=O)C=C1 | C17H21N3O6S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
product | (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-dimethylcarbamoyl-4-mercaptopyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)S)C(N(C)C)=O)C=C1 | C15H19N3O5S
